US05502065
3-(1-Methylpyrrolidin-2(R)-ylmethyl)-5-(5-methoxycarbonyl-3-pyridyl)-1H-indole
5-Methoxycarbonyl-3-pyridyltri-n-butylstannane (see Preparation and 5-bromo-3-(1-methylpyrrolidin-2(R)-ylmethyl)-1H-indole (see Preparation 36) were reacted together in the presence of tri-o-tolylphosphine, triethylamine and palladium (II) acetate using a procedure similar to that described in Example 1. This yielded the title compound as an oil. The product, which was impure, was used without characterisation in the preparation of Example 49.

reactant | 5-Methoxycarbonyl-3-pyridyltri-n-butylstannane | COC(=O)C=1C=C(C=NC1)[Sn](CCCC)(CCCC)CCCC
reactant | 5-bromo-3-(1-methylpyrrolidin-2(R)-ylmethyl)-1H-indole | BrC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H17BrN2
reactant | tri-o-tolylphosphine | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(1-Methylpyrrolidin-2(R)-ylmethyl)-5-(5-methoxycarbonyl-3-pyridyl)-1H-indole | CN1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)C=1C=NC=C(C1)C(=O)OC | C21H23N3O2
